US09290451B2
a) 5-(Trifluoromethyl)-pyridine-2-carboxylic acid methyl ester
A solution of 5-(trifluoromethyl)-pyridine-2-carboxylic acid (CAN 80194-69-0, 3 g, 15.7 mmol) and sulfurous dichloride (0.1 mL) in methanol (30 mL) was stirred under reflux conditions overnight. Removal of the solvent provided the crude title compound which was purified by column chromatography (silica gel, 20 g, 10% ethyl acetate in petroleum ether) to obtain the title compound (2.7 g, 84%) as white solid; MS (EI): m/e=206.1 [M+H]+.

reactant | 5-(trifluoromethyl)-pyridine-2-carboxylic acid | 15.7 mmol, 3 g | FC(C=1C=CC(=NC1)C(=O)O)(F)F | C7H4F3NO2
reactant | sulfurous dichloride | 0.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 30 mL | CO | CH4O
product | 5-(Trifluoromethyl)-pyridine-2-carboxylic acid methyl ester | 2.7 g, 84% | COC(=O)C1=NC=C(C=C1)C(F)(F)F | C8H6F3NO2
